US07094904B2
According to the Spanish Patent Number ES 549 020 A1 1 mole of 1,3-dichloroacetone is reacted with 2 mole of 1,2,4-triazole, then the 1,3-bis(1,2,4-triazole-1-yl)-propan-2-on obtained with low yield is reacted with 2,4-difluorophenylmagnesium bromide to give fluconazole. The yield is about 45% calculated on the Grignard reagent.

reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | 1,2,4-triazole | 2 mole | N1N=CN=C1 | C2H3N3
product | 1,3-bis(1,2,4-triazole-1-yl)-propan-2-on | N1(N=CN=C1)CC(CN1N=CN=C1)=O | C7H8N6O
